US06881733B1
A solution of 1.0 gm (3.7 mMol) (−)-cis-3-methyl-4-(5-fluorobenzofur-7-yl)piperidine in 80 mL dichloromethane was cooled in an ice bath and then treated with 25 mL saturated aqueous sodium bicarbonate followed by the dropwise addition of a solution of 1.21 gm (5.56 mMol) di-tert-butyl dicarbonate in 20 mL dichloromethane. The reaction mixture was stirred for 11 hours and the phases were separated. The aqueous phase was extracted well with dichloromethane. All of the organic phases were combined, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with hexane containing from 0-25% ethyl acetate. Fractions containing the desired product were combined and concentrated under reduced pressure to provide 1.15 gm (−)-cis-1-(tert-butoxycarbonyl)-3-methyl-4-(5-fluorobenzofur-7-yl)piperidine.

reactant | (−)-cis-3-methyl-4-(5-fluorobenzofur-7-yl)piperidine | 3.7 mMol, 1.0 gm | C[C@@H]1CNCC[C@@H]1C1=CC(=CC=2C=COC21)F | C14H16FNO
reactant | sodium bicarbonate | 25 mL | C([O-])(O)=O.[Na+]
reactant | di-tert-butyl dicarbonate | 5.56 mMol, 1.21 gm | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (−)-cis-1-(tert-butoxycarbonyl)-3-methyl-4-(5-fluorobenzofur-7-yl)piperidine | 1.15 gm | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)C1=CC(=CC=2C=COC21)F)C | C19H24FNO3
